US04833169
4.3 ml (43 mmol) of borane dimethyl sulphide (10M in tetrahydrofuran) are slowly added dropwise, at room temperature, to 5 g (29 mmol) of 2-(5-methoxybenzocyclobuten-1-yl)acetonitrile in 50 ml of tetrahydrofuran. The mixture is then heated under reflux for 30 minutes. Subsequently, while cooling well, 30 ml of 6N hydrochloric acid are added and the mixture is then heated under reflux for a further 30 minutes. The reaction mixture is cooled, adjusted to pH 10 with 4N sodium hydroxide solution and extracted with dichloromethane. The organic phases are combined, dried over sodium sulphate and concentrated under reduced pressure. 2-(5-methoxybenzocyclobuten-1-yl)ethylamine is obtained in the form of a viscous oil; Rf=0.1, toluene/ethanol/conc. aqueous ammonia (90:20:1).

reactant | borane dimethyl sulphide | 43 mmol, 10M, 4.3 ml | CSC.B
reactant | 2-(5-methoxybenzocyclobuten-1-yl)acetonitrile | 29 mmol, 5 g | COC=1C=CC2=C(C(=C2)CC#N)C1 | C11H9NO
reactant | hydrochloric acid | 6N, 30 ml | Cl | ClH
reactant | sodium hydroxide | 4N | [OH-].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-(5-methoxybenzocyclobuten-1-yl)ethylamine | COC=1C=CC2=C(C(=C2)CCN)C1 | C11H13NO
